US05068337
1,4-Dihydro-2-(imidazol-1-ylmethyl)-6-methyl-4-(3-nitro-phenyl)pyridine-3,5-dicarboxylic acid 3-(2-methoxy)ethyl 5-methyl ester
A mixture of methyl 2-(3-nitrobenzylidene)-acetoacetate (2.5 g, 0.01 mol), ethanol (20 ml) and 2-methoxyethyl 3-amino-4-(imidazol-1-yl)crotonate (3 g) is heated at reflux for 5 hours to give the title compound.

reactant | methyl 2-(3-nitrobenzylidene)-acetoacetate | 0.01 mol, 2.5 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C(=O)C)C=CC1 | C12H11NO5
reactant | 2-methoxyethyl 3-amino-4-(imidazol-1-yl)crotonate | 3 g | N\C(=C/C(=O)OCCOC)\CN1C=NC=C1 | C10H15N3O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,4-Dihydro-2-(imidazol-1-ylmethyl)-6-methyl-4-(3-nitro-phenyl)pyridine-3,5-dicarboxylic acid 3-(2-methoxy)ethyl 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)CN1C=NC=C1)C(=O)OCCOC)C1=CC(=CC=C1)[N+](=O)[O-] | C22H24N4O7
